US08242151B2
2-ethoxy-3H-imidazo[4,5-b]pyridine
2,3-Diaminopyridine (7.84 g, 71.9 mmol) and tetraethoxymethane (35 mL, 167 mmol) were mixed, and the mixture was stirred at 130° C. for 2 hr. The mixture was cooled to room temperature, ethyl acetate (100 mL) was added thereto and the precipitated solid was collected by filtration to give the title compound (4.17 g, 36%).

reactant | 2,3-Diaminopyridine | 71.9 mmol, 7.84 g | NC1=NC=CC=C1N | C5H7N3
reactant | tetraethoxymethane | 167 mmol, 35 mL | C(C)OC(OCC)(OCC)OCC | C9H20O4
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | 2-ethoxy-3H-imidazo[4,5-b]pyridine | 4.17 g, 36% | C(C)OC1=NC=2C(=NC=CC2)N1 | C8H9N3O
